US04978753
In the manner given in Example 21, carbonyldiimidazole, 6-(4-methylpiperazinyl)-2-hexynoic acid, and 2-amino-6-methoxy-5-(o-fluorophenyl)-3H-1,4-benzodiazepine was stirred in tetrahydrofuran-dimethylformamide to give 8-methoxy-1-[1-(4-methylpiperazinyl)propyl]-7-(o-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-(4-methylpiperazinyl)-2-hexynoic acid | CN1CCN(CC1)CCCC#CC(=O)O | C11H18N2O2
reactant | 2-amino-6-methoxy-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)F)C(=CC=C2)OC | C16H14FN3O
reactant | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 8-methoxy-1-[1-(4-methylpiperazinyl)propyl]-7-(o-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | COC1=CC=CC2=C1C(=NCC=1N2C(=CC(N1)=O)C(CC)N1CCN(CC1)C)C1=C(C=CC=C1)F | C27H30FN5O2
